US07812016B2
A suspension of 5-bromo-8-hydroxy-1,6-naphthyridine-7-carbonitrile (0.25 g, 9.99 mmol), 2-(4-fluorophenyl)acetic hydrazide (0.34 g, 2 mmol), 1,4-dioxane (2 mL) and acetic acid was heated at 200° C. for 10 minutes in a microwave chamber. The mixture was allowed to cool to room temperature, the precipitate was filtered and washed with dichloromethane. The filtrate was concentrated in vacuo, 1 N sodium hydroxide and ethyl acetate were added and the aqueous layer was washed with ethyl acetate. The aqueous layer was then acidified to pH 5 and the solids formed were collected. This material was azeotroped with methanol to provide 5-bromo-7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol (0.17 g, 42%) as a yellow solid. 1H NMR (CDCl3/CD3OD): δ 9.07 (dd, J=4.0, 1.2 Hz, 1 H), 8.50 (dd, J=8.4, 1.2 Hz, 1 H), 7.65 (dd, J=8.4, 4.0 Hz, 1 H), 7.26 (m, 2 H), 6.95 (m, 2 H), 4.11 (s, 2 H); MS m/z 400 (M+1).

reactant | 5-bromo-8-hydroxy-1,6-naphthyridine-7-carbonitrile | 9.99 mmol, 0.25 g | BrC1=C2C=CC=NC2=C(C(=N1)C#N)O | C9H4BrN3O
reactant | 2-(4-fluorophenyl)acetic hydrazide | 2 mmol, 0.34 g | FC1=CC=C(C=C1)CC(=O)NN | C8H9FN2O
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-bromo-7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol | 0.17 g, 42% | BrC1=C2C=CC=NC2=C(C(=N1)C1=NN=C(N1)CC1=CC=C(C=C1)F)O | C17H11BrFN5O
